US04581366
A suspension of 7-chloro-indoline-2,3-dione (15 g.) and potassium carbonate (15 g.) in N,N-dimethylformamide (100 ml.) was stirred and treated with a solution of 4-bromo-2-fluorobenzyl bromide (24.7 g.) in chlorobenzene (100 ml.). The mixture was stirred at 90° C. for five hours; cooled to ambient temperature, and diluted with a mixture of water (500 ml.) and petrol 60-80 (500 ml.). The aqueous phase was adjusted to pH3 with 10M hydrochloric acid. The mixture obtained was separated by filtration. The solid obtained was washed with petrol 60-80, then with water, and recrystallised from ethanol to give 1-(4-bromo-2-fluorobenzyl)-7-chloro-indoline-2,3-dione (15.5 g.), m.p. 164°-166° C.

reactant | 7-chloro-indoline-2,3-dione | 15 g | ClC=1C=CC=C2C(C(NC12)=O)=O | C8H4ClNO2
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-2-fluorobenzyl bromide | 24.7 g | BrC1=CC(=C(CBr)C=C1)F | C7H5Br2F
reactant | hydrochloric acid | 10M | Cl | ClH
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | chlorobenzene | 100 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | water | 500 ml | O | H2O
product | 1-(4-bromo-2-fluorobenzyl)-7-chloro-indoline-2,3-dione | 15.5 g | BrC1=CC(=C(CN2C(C(C3=CC=CC(=C23)Cl)=O)=O)C=C1)F | C15H8BrClFNO2
